US06921753B2
tert-Butyl 2-[cyclopentylamino]ethylcarbamate
tert-Butyl 2-aminoethylcarbamate (3.0 g, 18.8 mmol) (Preparation 54) was dissolved in cyclopentanone (30 ml). Pearlman's Catalyst (0.1 g) was added and the reaction mixture was stirred under an atmosphere of hydrogen gas (414 kPa, 100 psi) for 48 hours. The catalyst was filtered off through Arbocel (Trade Mark) and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol:0.88 concentrated aqueous ammonia (95:5:0.5 by volume) increasing in polarity to dichloromethane:methanol:0.88 concentrated aqueous ammonia (90:10:1 by volume). The solvent was removed under reduced pressure to give the title compound (1.5 g) as an oil.

reactant | tert-Butyl 2-aminoethylcarbamate | 18.8 mmol, 3.0 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | cyclopentanone | 30 ml | C1(CCCC1)=O | C5H8O
catalyst | Pearlman's Catalyst | 0.1 g | [OH-].[OH-].[Pd+2]
product | tert-Butyl 2-[cyclopentylamino]ethylcarbamate | 1.5 g | C1(CCCC1)NCCNC(OC(C)(C)C)=O | C12H24N2O2
